US04230712
C. 3-Methoxy-8β-methylmorphinan-6-one Hydrochloride.
A suspension of 17-cyano-3-methoxy-8β-methylmorphinan-6-one (prepared in Part B) in 2 N HCl (1 g/30 ml) was refluxed for 8 hours. The resulting solution was evaporated to dryness, azeotroped several times with ethanol, and the crystalline residue suspended in ethanol and collected. The product was used without further purification. The yield of crystalline material, mp 204°-208° C., was 90%.

reactant | 17-cyano-3-methoxy-8β-methylmorphinan-6-one | C(#N)N1[C@H]2[C@@H]3[C@H](CC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)C | C19H22N2O2
reactant | HCl | 2 N, 30 ml, 1 g | Cl | ClH
product | 3-Methoxy-8β-methylmorphinan-6-one Hydrochloride | Cl.COC=1C=CC=2C[C@@H]3[C@@H]4[C@H](CC(C[C@@]4(C2C1)CCN3)=O)C | InChI=1S/C18H23NO2.ClH/c1-11-7-13(20)10-18-5-6-19-16(17(11)18)8-12-3-4-14(21-2)9-15(12)18;/h3-4,9,11,16-17,19H,5-8,10H2,1-2H3;1H/t11-,16+,17-,18+;/m0./s1
